** sch_path: /foss/designs/sram-sense-amp/xschem/sram-sense-amp.sch
**.subckt sram-sense-amp
V1 VDD GND {VDD}
V4 SE GND 0
XM8 net2 SE GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM1 OUT net1 net2 net2 sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM3 net1 OUT VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM2 OUT net1 VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM4 net1 OUT net2 net2 sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM5 q qbar VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM7 qbar q VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM10 q qbar GND GND sg13_lv_nmos w=2*0.15u l=0.13u ng=1 m=1
XM11 qbar q GND GND sg13_lv_nmos w=2*0.15u l=0.13u ng=1 m=1
XM12 BL WL q GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM13 BLB WL qbar GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
C1 BL GND 0.5p m=1
C2 BLB GND 0.5p m=1
V5 WL GND PWL( 0n 0 19n 0 20n {VDD} 24n {VDD} 24.2n 0 59n 0 60n {VDD} 66n {VDD} 66.2n 0 99n 0 100n {VDD} 104n {VDD} 104.2n 0 139n 0
+ 140n {VDD} 146n {VDD} 146.2n 0 180n 0
)
XM6 OUT SE BL VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM9 net1 SE BLB VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM14 BL PRE_N VDD VDD sg13_lv_pmos w=3*0.15u l=0.13u ng=1 m=1
XM15 BLB PRE_N VDD VDD sg13_lv_pmos w=3*0.15u l=0.13u ng=1 m=1
V2 PRE_N GND PWL( 0n 0 10n 0 {10n + tr} {VDD} 39.999n {VDD} 40n 0 50n 0 {50n + tr} {VDD} 79.999n {VDD} 80n 0 90n 0 {90n + tr} {VDD}
+ 119.999n {VDD} 120n 0 130n 0 {130n + tr} {VDD} 180n {VDD}
)
XM18 BLB WE net5 net5 sg13_lv_nmos w=24*0.15u l=0.13u ng=1 m=1
XM19 BL WE net6 net6 sg13_lv_nmos w=24*0.15u l=0.13u ng=1 m=1
XM20 net5 net4 GND GND sg13_lv_nmos w=12*0.15u l=0.13u ng=1 m=1
XM21 net6 net3 GND GND sg13_lv_nmos w=12*0.15u l=0.13u ng=1 m=1
XM24 net3 net4 VDD VDD sg13_lv_pmos w=12*0.15u l=0.13u ng=1 m=1
XM25 net3 net4 GND GND sg13_lv_nmos w=6*0.15u l=0.13u ng=1 m=1
XM26 net4 Din VDD VDD sg13_lv_pmos w=18*0.15u l=0.13u ng=1 m=1
XM27 net4 Din GND GND sg13_lv_nmos w=9*0.15u l=0.13u ng=1 m=1
V3 WE GND PWL( 0n 0 19n 0 19.2n {VDD} 24.2n {VDD} 24.4n 0 99n 0 99.2n {VDD} 104.2n {VDD} 104.4n 0 180n 0
)
V6 Din GND PWL( 0n {VDD} 80n {VDD} 95n 0 180n 0
)
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt

.param VDD=1.2
.param tr=50p

.ic v(Q)=0 V(qbar)=1

.tran 0.1n 180n

.control
run
set wr_singlescale
set wr_vecnames
*wrdata data.txt v(BL) v(BLB) v(WL) v(SE) v(OUT)
wrdata data.txt v(BL) v(BLB) v(WL) v(WE) v(PRE_N) v(Din) v(q) v(qbar)
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
